US08278482B2
tert-Butyl 2-methyl-1-morpholinopropan-2-ylcarbamate (640 mg, 2.5 mmol) was dissolved in methyl iodide (20 ml) and placed in a sealed tube. The reaction was stirred at 50° C. for 18 hours. The reaction mixture was concentrated and partitioned between water and ethyl acetate. The water layer was separated and concentrated to give 840 mg (85%) 4-(2-(tert-butoxycarbonylamino)-2-methylpropyl)-4-methylmorpholin-4-ium iodide. 1H NMR (D2O): δ (m, 4 H), 3.83 (s, 2 H), 3.72-3.54 (m, 4 H), 3.37 (s, 3 H), 1.50 (s, 6 H), 1.45 (s, 9 H); MS (ESI+) calculated for C14H29N2O3+: 273.22, Found: 273 (M+).

reactant | tert-Butyl 2-methyl-1-morpholinopropan-2-ylcarbamate | 2.5 mmol, 640 mg | CC(CN1CCOCC1)(C)NC(OC(C)(C)C)=O | C13H26N2O3
reactant | methyl iodide | 20 ml | CI | CH3I
product | 4-(2-(tert-butoxycarbonylamino)-2-methylpropyl)-4-methylmorpholin-4-ium iodide | 840 mg, 85% | [I-].C(C)(C)(C)OC(=O)NC(C[N+]1(CCOCC1)C)(C)C | InChI=1S/C14H28N2O3.HI/c1-13(2,3)19-12(17)15-14(4,5)11-16(6)7-9-18-10-8-16;/h7-11H2,1-6H3;1H
